US04319033
The method of Example 4 was used, using 7-hydroxytetradecan-8-one (22.8 g), propane-1,2-dithiol (10.8 g) and p-toluenesulphonic acid (0.5 g) to give 2,3-dihexyl-5,6-dihydro-5-methyl-1,4-dithiin as a greenish oil, bp 148°-155°/0.2 mm, yield 63%. NMR, 0.7-1.8 δ (multiplets), 2.05-2.35 δ (broad triplet), 2.45-3.6 δ (multiplets), 2.95 δ (doublet).

reactant | 7-hydroxytetradecan-8-one | 22.8 g | OC(CCCCCC)C(CCCCCC)=O | C14H28O2
reactant | propane-1,2-dithiol | 10.8 g | C(C(C)S)S | C3H8S2
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2,3-dihexyl-5,6-dihydro-5-methyl-1,4-dithiin | yield 63% | C(CCCCC)C=1SCC(SC1CCCCCC)C | C17H32S2
